US07179823B1
A mixture of ethyl 3-[3-ethoxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazole-4-yl]propionate (441 mg), 1 N aqueous sodium hydroxide solution (2 ml), tetrahydrofuran (4 ml), and ethanol (4 ml) was stirred at room temperature for two hours, diluted with 1 N hydrochloric acid (2 ml), and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained colorless crystals were collected by filtration, and 3-[3-ethoxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid was obtained (328 mg, yield: 79%). This was recrystallized from ethanol-hexane. Melting point: 96–97° C.

reactant | ethyl 3-[3-ethoxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazole-4-yl]propionate | 441 mg | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C28H31N3O5
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
reactant | ethanol | 4 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1 N, 2 ml | Cl | ClH
product | 3-[3-ethoxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid | yield: 79% | C(C)OC1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H27N3O5
